US05773594
(±) Ethyl 4-[(5,5-dimethyl-8-hydroxy-8-carbethoxymethyl-5,6,7,8-tetrahydronaphth-2-yl)azo]benzoate (Compound D1)
To a refluxing solution of zinc dust (0.15 g, 20 mesh, activated prior to use by washing with 2% of hydrochloric acid, water, 95% ethanol, acetone and anhydrous ether, then dried in vacuum for several hours) in 6 ml of dry benzene was slowly added a mixture of bromo ethyl acetate (0.082 ml, 0.74 mmol) and ethyl 4-[(5,5-dimethyl-5,6-dihydro-naphthalen-8(7H)-one-2-yl)azo]benzoate (Compound D10, 0.13 g, 0.371 mmol) in 6 ml of dry benzene. The resulting mixture was refluxed for 2 h then cooled to room temperature. The precipitate was filtered through celite and the filtrate was washed with cold 15% sulfuric acid. The organic phase was washed with saturated sodium bicarbonate, brine, dried over Na2SO4, filtered and concentrated to give a red oil. Purification by flash chromatography (silica gel, 30% ethyl acetate in hexane) afforded the title compound as a red oil.

reactant | ethyl 4-[(5,5-dimethyl-5,6-dihydro-naphthalen-8(7H)-one-2-yl)azo]benzoate | 0.371 mmol, 0.13 g | CC1(C=2C=CC(=CC2C(CC1)=O)N=NC1=CC=C(C(=O)OCC)C=C1)C | C21H22N2O3
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc | [Zn] | Zn
product | (±) Ethyl 4-[(5,5-dimethyl-8-hydroxy-8-carbethoxymethyl-5,6,7,8-tetrahydronaphth-2-yl)azo]benzoate | CC1(C=2C=CC(=CC2C(CC1)(CC(=O)OCC)O)N=NC1=CC=C(C(=O)OCC)C=C1)C | C25H30N2O5
